US08378095B2
To a solution of 2-(2,6-difluorophenyl)-5-(4-(oxiran-2-ylmethoxy)phenyl)oxazole-4-carboxamide (0.025 g, 0.0671 mmol) in MeOH (1 ml) was added piperidine (0.017 g, 0.201 mmol). The reaction was heated to 100° C. via microwave irradiation and held at this temperature for 15 minutes. The crude reaction was then purified by preparative HPLC to give 2-(2,6-difluorophenyl)-5-(4-(2-hydroxy-3-(piperidin-1-yl)propoxy)phenyl)oxazole-4-carboxamide (0.0036 g, 0.0079 mmol, 12%) as an off white powder. 1H NMR (DMSO) δ 1.34-1.41 (2H, m), 1.46-1.54 (4H, m), 2.35-2.48 (6H, m), 3.92-4.01 (2H, m), 4.04-4.08 (1H, m), 7.08-7.12 (2H, m), 7.34-7.41 (2H, m), 7.66 (1H, br. s), 7.68 (1H, br, s), 7.69-7.76 (1H, m), 8.20-8.24 (2H, m). LCMS (2) 3.06 min; m/z (ES+) 458.

reactant | 2-(2,6-difluorophenyl)-5-(4-(oxiran-2-ylmethoxy)phenyl)oxazole-4-carboxamide | 0.0671 mmol, 0.025 g | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C(=O)N)C1=CC=C(C=C1)OCC1OC1 | C19H14F2N2O4
reactant | piperidine | 0.201 mmol, 0.017 g | N1CCCCC1 | C5H11N
solvent | MeOH | 1 ml | CO | CH4O
product | 2-(2,6-difluorophenyl)-5-(4-(2-hydroxy-3-(piperidin-1-yl)propoxy)phenyl)oxazole-4-carboxamide | 0.0079 mmol, 0.0036 g, 12% | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C(=O)N)C1=CC=C(C=C1)OCC(CN1CCCCC1)O | C24H25F2N3O4
